US04605656
3 g of 2'-chloro-2-(2-pyrazinyl)-acetophenone and 0.8 g of O-methylhydroxylamine hydrochloride are dissolved in 10 ml of pyridine and the mixture is heated at 80° for 30 minutes. The pyridine is then removed under reduced pressure and water is added to the crude product. Thereupon, the mixture is extracted with ethyl acetate and the organic phase is dried over sodium sulfate and concentrated to yield 2'-chloro-2-(2-pyrazinyl)-acetophenone O-methyl oxime as an oil.

reactant | 2'-chloro-2-(2-pyrazinyl)-acetophenone | 3 g | ClC1=C(C=CC=C1)C(CC1=NC=CN=C1)=O | C12H9ClN2O
reactant | O-methylhydroxylamine hydrochloride | 0.8 g | Cl.CON
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 2'-chloro-2-(2-pyrazinyl)-acetophenone O-methyl oxime | CON=C(CC1=NC=CN=C1)C1=C(C=CC=C1)Cl | C13H12ClN3O
